US07183270B2
A suspension of sodium hydride (60%, 176 mg, 4.4 mmol) in tetrahydrofuran (5 mL) was stirred on an ice bath and treated dropwise over 5 min with dimethylphosphonoacetic acid tert-butyl ester (0.79 mL, 4.0 mmol). The mixture was stirred at room temperature for 25 min, then was cooled on an ice bath and treated with a solution of (1R,3R,4S)-{3-benzenesulfonylmethyl-4-[3-oxo-3-(3-trifluoromethylphenyl)-propylamino]cyclohexyl}carbamic acid tert-butyl ester (1.138 g, 2.0 mmol) in tetrahydrofuran (5 mL). The mixture was stirred at room temperature for 2.5 h, then was treated with saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate, and the organic extracts were dried over sodium sulfate and concentrated under vacuum. The residue was purified by flash column chromatography, eluting with 25% ethyl acetate-hexane, to provide the E isomer of 5-([1S,2R,4R]-2-benzenesulfonylmethyl-4-tert-butoxycarbonyl-aminocyclohexylamino)-3-(3-trifluoromethylphenyl)pent-2-enoic acid tert-butyl ester (511 mg) as a white solid. MS found: (M+H)+=667.41. Further elution with 40% ethyl acetate-hexane provided the corresponding Z isomer (567 mg) as a white glassy solid. MS found: (M+H)+=667.41.

reactant | sodium hydride | 4.4 mmol, 176 mg | [H-].[Na+]
reactant | dimethylphosphonoacetic acid tert-butyl ester | 4.0 mmol, 0.79 mL | C(C)(C)(C)OC(CP(=O)(OC)OC)=O | C8H17O5P
reactant | (1R,3R,4S)-{3-benzenesulfonylmethyl-4-[3-oxo-3-(3-trifluoromethylphenyl)-propylamino]cyclohexyl}carbamic acid tert-butyl ester | 2.0 mmol, 1.138 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NCCC(C1=CC(=CC=C1)C(F)(F)F)=O)CS(=O)(=O)C1=CC=CC=C1)=O | C28H35F3N2O5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-([1S,2R,4R]-2-benzenesulfonylmethyl-4-tert-butoxycarbonyl-aminocyclohexylamino)-3-(3-trifluoromethylphenyl)pent-2-enoic acid tert-butyl ester | 511 mg | C(C)(C)(C)OC(C=C(CCN([C@@H]1[C@@H](C[C@@H](CC1)C(=O)OC(C)(C)C)CS(=O)(=O)C1=CC=CC=C1)N)C1=CC(=CC=C1)C(F)(F)F)=O | C34H45F3N2O6S
